US08377573B2
To 7.1 g of the resulting 5-(3-bromophenyl)-5H-pyrido[4,3-b]indole were added 6.7 g of bis(pinacolato)diboron, 6.7 g of potassium acetate, 540 mg of bis(diphenylphosphinoferrocene)dipalladium, and 100 ml of dimethyl sulfoxide, followed by heating and stirring at 80° C. for 5 hours. After cooling to room temperature, 200 ml of ethyl acetate and 100 ml of water were added thereto to separate the liquid, and the aqueous layer was further extracted with 100 ml of ethyl acetate. The organic layer was combined, dehydrated with anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain a crude product. The crude product was purified by column chromatography (carrier: NH silica gel, eluent: chloroform) to obtain 4.4 g (yield 53%) of 5-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-5H-pyrido[4,3-b]indole as a yellow powder.

reactant | 5-(3-bromophenyl)-5H-pyrido[4,3-b]indole | 7.1 g | BrC=1C=C(C=CC1)N1C2=C(C=3C=CC=CC13)C=NC=C2 | C17H11BrN2
reactant | bis(pinacolato)diboron | 6.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.7 g | C(C)(=O)[O-].[K+]
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-5H-pyrido[4,3-b]indole | 4.4 g, yield 53% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1C2=C(C=3C=CC=CC13)C=NC=C2)C | C23H23BN2O2
